Tone stack -- fixed-point check: mid-rail bias (rail-aware), noon response, mid cut ON/OFF
* Same network as sweep_tonestack.cir but with the RAIL-AWARE op-amp so the DC
* operating point of every IC3 stage is real: everything must sit at VBIAS_3
* (8.5 V on the +17 V rail), no DC across the pots or the switch (no pops), and
* TONE_OUT (after C_tout) at 0 V.

.include models/opamp_rail.sub

Vcc VCC 0 17
R_vb31 VCC VBIAS_3 100k
R_vb32 VBIAS_3 0 100k
C_vb3 VBIAS_3 0 47u

Vin  q2src 0 DC 9 AC 1            ; Q2 drain: ~9 V DC + signal, through R_d 10k
R_src q2src q2d 10k
C_cpl_out q2d PREAMP_OUT 1u       ; blocks the drain DC (errata #20)
R_inb PREAMP_OUT VBIAS_3 1meg
X_A PREAMP_OUT BUF BUF VCC 0 OPAMP_RAIL

.param rsw=1e9
R_j1 BUF JA 10k
R_bA JA JWB 125k
R_bB JWB JB 125k
C_j1 JA JWB 22n
C_j2 JWB JB 22n
R_j2 JB VBIAS_3 10k
R_j3 JWB JOUT 68k
C_j3 BUF JTA 2.2n
R_tA JTA JWT 125k
R_tB JWT JTB 125k
C_j4 JTB VBIAS_3 2.2n
R_j4 JWT JOUT 1k
X_B JOUT MKN MK_OUT VCC 0 OPAMP_RAIL
R_mk1 MK_OUT MKN 10k
R_mk2 MKN VBIAS_3 10k
R_mid MK_OUT MID 10k
R_sw MID MIDSW {rsw}
C_res MIDSW GYA 22n
R_gL GYA GYO 4.7k
C_gg GYA GYP 1.8n
R_gg GYP VBIAS_3 220k
X_C GYP GYO GYO VCC 0 OPAMP_RAIL
X_D MID OBUF OBUF VCC 0 OPAMP_RAIL
C_tout OBUF VOLTOP 1u
R_volA VOLTOP TONE_OUT 1k
R_volB TONE_OUT 0 249k
C_treble VOLTOP TONE_OUT 470p
R_ld1 TONE_OUT 0 100k

.control
op
let v_buf = v(BUF)
let v_jout = v(JOUT)
let v_mk = v(MK_OUT)
let v_mid = v(MID)
let v_gya = v(GYA)
let v_obuf = v(OBUF)
let v_tone = v(TONE_OUT)
set sbuf = "$&v_buf"
set sj = "$&v_jout"
set smk = "$&v_mk"
set smid = "$&v_mid"
set sgya = "$&v_gya"
set sob = "$&v_obuf"
set stone = "$&v_tone"
echo DC: BUF=$sbuf JOUT=$sj MK_OUT=$smk MID=$smid GYA=$sgya OBUF=$sob TONE_OUT=$stone   (all IC3 nodes ~8.5 V, TONE_OUT 0 V)
ac dec 50 20 20k
meas ac noon_100 FIND vdb(TONE_OUT) AT=100
meas ac noon_1k FIND vdb(TONE_OUT) AT=1000
meas ac noon_10k FIND vdb(TONE_OUT) AT=10000
print noon_100 noon_1k noon_10k
* (print before the re-run: meas vectors live in the plot they were made in)
alterparam rsw=1e-3
reset
ac dec 100 20 20k
meas ac mid_800 FIND vdb(TONE_OUT) AT=800
meas ac mid_min MIN vdb(TONE_OUT) FROM=100 TO=5000
print mid_800 mid_min
.endc
.end
